US09085555B2
(3-Chloro-2-fluoro-5-morpholin-4-ylmethyl-benzyl)-carbamic acid tert-butyl ester
was prepared according to Scheme C2 (step C) from (3-chloro-2-fluoro-5-formyl-benzyl)-carbamic acid tert-butyl ester (220 mg, 0.65 mmol), morpholine (57 mg, 0.65 mmol), acetic acid (0.056 mL, 0.9 mmol) and sodium triacetoxyborohydride (344 mg, 1.6 mmol) in THF (8 mL). TLC, Rf (EtOAc)=0.44; MS (LC-MS): 359.0 [M]+.

reactant | (3-chloro-2-fluoro-5-formyl-benzyl)-carbamic acid tert-butyl ester | 0.65 mmol, 220 mg | C(C)(C)(C)OC(NCC1=C(C(=CC(=C1)C=O)Cl)F)=O | C13H15ClFNO3
reactant | morpholine | 0.65 mmol, 57 mg | N1CCOCC1 | C4H9NO
reactant | acetic acid | 0.9 mmol, 0.056 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.6 mmol, 344 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (3-Chloro-2-fluoro-5-morpholin-4-ylmethyl-benzyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=C(C(=CC(=C1)CN1CCOCC1)Cl)F)=O | C17H24ClFN2O3
